US06737425B1
104-2) 1-Benzyl-4-[2-(4-fluorophenoxy)butyl]piperazine
1-Benzyl-4-[2-vinyl-2-(4-fluorophenoxy)ethyl]piperazine 919 mg was dissolved in ethanol 20 ml, and palladium hydroxide/carbon 50 mg, 51.5% wet was added thereto, and the mixture was reduced for 8 hours under hydrogen pressure at about 3 kg/cm3. After the insolubles were filtered off, the filtrate was evaporated, and the residue was purified by NH silica gel column chromatography (hexane/ethyl acetate system), whereby the title compound, 717 mg, 77%, was obtained as a colorless oil.

reactant | 1-Benzyl-4-[2-vinyl-2-(4-fluorophenoxy)ethyl]piperazine | 919 mg | C(C1=CC=CC=C1)N1CCN(CC1)CC(OC1=CC=C(C=C1)F)C=C | C21H25FN2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide/carbon | 50 mg | [OH-].[OH-].[Pd+2]
product | 1-Benzyl-4-[2-(4-fluorophenoxy)butyl]piperazine | C(C1=CC=CC=C1)N1CCN(CC1)CC(CC)OC1=CC=C(C=C1)F | C21H27FN2O
